US06797823B1
7-(Benzyloxy)-6-methoxy-1,4-dihydro-4-quinolinone
1-[2-Amino-4-(benzyloxy)-5-methoxyphenyl]-1-ethanone (24.95 g) was dissolved in tetrahydrofuran (450 ml), and sodium methoxide (24.87 g) was added to the solution. The mixture was stirred at room temperature for one hr. Ethyl formate (37.07 ml) was then added thereto, and the mixture was stirred at room temperature for 2 hr. Water (150 ml) was then added thereto, and the mixture was stirred overnight. The reaction solution was adjusted to pH 4 by the addition of concentrated sulfuric acid at 0° C. Water was added thereto, and the mixture was extracted with chloroform. The chloroform layer was dried over sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol (10/1) to give 17.16 g (yield 66%) of the title compound.

reactant | 1-[2-Amino-4-(benzyloxy)-5-methoxyphenyl]-1-ethanone | 24.95 g | NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C(C)=O | C16H17NO3
reactant | sodium methoxide | 24.87 g | C[O-].[Na+]
reactant | Ethyl formate | 37.07 ml | C(=O)OCC | C3H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | Water | 150 ml | O | H2O
product | 7-(Benzyloxy)-6-methoxy-1,4-dihydro-4-quinolinone | 17.16 g, yield 66% | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)OC | C17H15NO3
